US08791146B2
4-[4-(2-Hydroxyethoxy)phenyl]-2-methoxy-6-[(pyridin-3-ylmethyl)sulphanyl]pyridine-3,5-dicarbonitrile
494 mg (1.5 mmol) of 2-chloro-4-[4-(2-hydroxyethoxy)phenyl]-6-methoxypyridine-3,5-dicarbonitrile are initially charged in 5 ml of DMF, 140 mg (1.8 mmol) of sodium sulphide are added and the mixture is stirred at room temperature for 3 hours. 311 mg (2.25 mmol) of potassium carbonate and 307 mg (1.8 mmol) of 3-picolyl chloride hydrochloride are then added. The reaction mixture is stirred at 45° C. overnight and then purified by preparative HPLC (acetonitrile/water: 10:90→95:5, with 0.1% formic acid added). This gives 255 mg (40% of theory) of the target compound.

reactant | 2-chloro-4-[4-(2-hydroxyethoxy)phenyl]-6-methoxypyridine-3,5-dicarbonitrile | 1.5 mmol, 494 mg | ClC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)OC | C16H12ClN3O3
reactant | sodium sulphide | 1.8 mmol, 140 mg | [S-2].[Na+].[Na+]
reactant | potassium carbonate | 2.25 mmol, 311 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-picolyl chloride hydrochloride | 1.8 mmol, 307 mg | Cl.N1=CC(=CC=C1)CCl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[4-(2-Hydroxyethoxy)phenyl]-2-methoxy-6-[(pyridin-3-ylmethyl)sulphanyl]pyridine-3,5-dicarbonitrile | OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)SCC=1C=NC=CC1)OC)C#N | C22H18N4O3S
